US05208250
5-[(3-Methoxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione
A mixture of 2-methoxybenzaldehyde (3.8 g, 28 mmoles), 1-methyl hydantoin (3.0 g 26 mmoles), sodium acetate (8.4 g, 102 mmoles), acetic anhydride (10 ml), and acetic acid (40 ml) is stirred under an inert atmosphere and heated to reflux. After 24 hours the mixture is stirred into water (350 ml), stirred, and the resulting gum is isolated and washed by decantation, then crystallized from isopropanol. Recrystallization from acetonitrile gave the pure product (1.1 g), mp 195°-197° C.

reactant | 2-methoxybenzaldehyde | 28 mmoles, 3.8 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 1-methyl hydantoin | 26 mmoles, 3.0 g | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | sodium acetate | 102 mmoles, 8.4 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 350 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 5-[(3-Methoxyphenyl)methylene]-1-methyl-2,4-imidazolidinedione | 1.1 g | COC=1C=C(C=CC1)C=C1C(NC(N1C)=O)=O | C12H12N2O3
